US06225310B1
6-Chloro-3-(2-methylallyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (128 mg, 0.5 mmol) in methallylamine (0.5 ml) was stirred for 48 h at 90° C. in a sealed flask. The cooled solution was concentrated in vacuo and the residue was stirred with water (3 ml) followed by adjustment to pH 2 with 4M hydrochloric acid. The product was isolated by filtration and washed with water, to give 92 mg (64%) of the pure title compound; mp 224-226° C. (dec.); 1H-NMR (DMSO-d6): δ1.72 (s, 3H), 3.75 (d, 2H), 4.83 (s, 2H), 7.05 (s, 1H), 7.45 (br s, 1H), 11.0 (br s, 1H).

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 0.5 mmol, 128 mg | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | methallylamine | 0.5 ml | C(C(C)=C)N | C4H9N
product | 6-Chloro-3-(2-methylallyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 92 mg, 64% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NCC(=C)C | C9H10ClN3O2S2
